US07652051B2
Synthesis of 6-(4-{5-[(3-chlorophenyl)amino]-1,3,4-oxadiazol-2-yl}phenoxy)pyrimidine-2,4-diamine
4-{5-[(3-chlorophenyl)amino]-1,3,4-oxadiazol-2-yl}phenol (143.8 mg, 0.5 mmol) was dissolved in 3 mL of anhydrous DMF in a 2-5 mL microwave vial (Personal Chemistry). Solid potassium bis(trimethylsilyl)amide (200.0 mg, 1.0 mmol) was added and the reaction mixture was stirred with heating at 80° C. for 10 min, then 6-chloro-2,4-diamino-pyrimidine (86.7 mg, 0.6 mmol) was added, followed by anhydrous K2CO3 (69.1 mg, 0.5 mmol). Then the vial was capped and microwaved at 180° C. for 40 min. Then the reaction mixture was diluted with ca. 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by reverse-phase preparative HPLC in acetonitrile/water system with 0.01% TFA. Fractions, containing the product, were partitioned between ca. 50 mL of EtOAc and ca. 50 mL of saturated aqueous NaHCO3. EtOAc layer was washed with brine, dried over anhydrous Na2SO4 and filtered. Solvent was removed in vacuo to give the title product as a light-yellow solid (62.0 mg). Yield 31.3%.

reactant | 4-{5-[(3-chlorophenyl)amino]-1,3,4-oxadiazol-2-yl}phenol | 0.5 mmol, 143.8 mg | ClC=1C=C(C=CC1)NC1=NN=C(O1)C1=CC=C(C=C1)O | C14H10ClN3O2
reactant | potassium bis(trimethylsilyl)amide | 1.0 mmol, 200.0 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 6-chloro-2,4-diamino-pyrimidine | 0.6 mmol, 86.7 mg | ClC1=CC(=NC(=N1)N)N | C4H5ClN4
reactant | K2CO3 | 0.5 mmol, 69.1 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | MeOH | ca. 1 mL | CO | CH4O
product | 6-(4-{5-[(3-chlorophenyl)amino]-1,3,4-oxadiazol-2-yl}phenoxy)pyrimidine-2,4-diamine | 62.0 mg, Yield 31.3% | ClC=1C=C(C=CC1)NC1=NN=C(O1)C1=CC=C(OC2=CC(=NC(=N2)N)N)C=C1 | C18H14ClN7O2
